US07060827B2
In like manner to the preparation of 5-fluoro-N4-(3-hydroxyphenyl)-N2-[4-(3-phenyl-1,2,4-oxadiazol-5-yl)methyleneoxyphenyl]-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine and 3-[[4-(ethoxycarbonyl)piperidino]carbonyl]aniline were reacted to provide N2-[3-[[4-(ethoxycarbonyl)piperidino]carbonyl]phenyl]-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.92 (d, 1H, J=3.6 Hz), 7.82 (s, 1H), 7.62 (td, 1H, J=1.2 and 8.4 Hz), 7.30 (t, 1H, J=8.4 Hz), 7.19–7.09 (m, 3H), 6.93 (d, 1H, J=7.5 Hz), 6.55 (td, 1H, J=1.2 and 7.5 Hz), 4.43 (bd, 1H, J=12.3 Hz), 4.13 (q, 2H, J=6.9 Hz), 3.7 (bd, 1H, J=11.7 Hz), 3.10–2.92 (m, 2H), 2.67–2.55 (m, 1H), 2.06–1.50 (m, 4H), 1.24 (t, H, J=6.9 Hz); 19F NMR (282 MHz, CD3OD): −47299; LCMS: purity: 99%; MS (m/e): 480(MH+).

reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 3-[[4-(ethoxycarbonyl)piperidino]carbonyl]aniline | C(C)OC(=O)C1CCN(CC1)C(=O)C=1C=C(N)C=CC1 | C15H20N2O3
product | N2-[3-[[4-(ethoxycarbonyl)piperidino]carbonyl]phenyl]-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C(C)OC(=O)C1CCN(CC1)C(=O)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C25H26FN5O4
